US04019907
The same procedures as in Example A were repeated except that 10 parts of 2-phenylamino-5-aminobenzoic methyl ester were used as the starting compound, and the aqueous solution of 10% sodium nitrite and the aqueous solution of 10% sodium azide were used in amount of 28 parts and 33.2 parts, respectively, 2-phenylamino-5-azidobenzoic methyl ester having a melting point of 64° to 65° C was obtained at an amount of 9.5 parts.

reactant | 2-phenylamino-5-aminobenzoic methyl ester | COC(C1=C(C=CC(=C1)N)NC1=CC=CC=C1)=O | C14H14N2O2
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | 2-phenylamino-5-azidobenzoic methyl ester | COC(C1=C(C=CC(=C1)N=[N+]=[N-])NC1=CC=CC=C1)=O | C14H12N4O2
